US04873238
Picolinic acid chloride was prepared by refluxing a solution of picolinic acid (20.0 g, 162 mmol) and thionyl chloride (24.0 mL, 325 mmol) in chloroform (200 mL) overnight. After excess thionyl chloride and chloroform was removed in vacuo, some of the acid chloride (15.0 g, 106 mmol) was added to a solution of 4-cyanoaniline (10.0 g, 84.6 mmol) and triethylamine (30.0 mL, 215 mmol) in methylene chloride (250 mL) at 0° C. under nitrogen. The reaction mixture was stirred at room temperature for 1 hour, poured into water (1 L), basified with 2.5N sodium hydroxide solution, and diluted with methylene chloride. The organic layer was dried over magnesium sulfate and concentrated to give a light brown solid (8.22 g, 36.9 mmol, 44%, mp 156°-159° C.).

reactant | picolinic acid | 162 mmol, 20.0 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | thionyl chloride | 325 mmol, 24.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-cyanoaniline | 84.6 mmol, 10.0 g | C(#N)C1=CC=C(N)C=C1 | C7H6N2
reactant | triethylamine | 215 mmol, 30.0 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 2.5N | [OH-].[Na+]
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
solvent | water | 1 L | O | H2O
product | Picolinic acid chloride | N1=C(C=CC=C1)C(=O)Cl | C6H4ClNO
